US07534810B2
The benethamine salt of atorvastatin (Form A) was synthesized by preparing a stock solution of the free acid of atorvastatin (U.S. Pat. No. 5,273,995) in acetonitrile (1 g in 40 mL of ACN). A solution of N-benzyl-2-phenylethylamine (benethamine) was prepared by dissolving 378.59 mg (1.0 equivalents) in acetonitrile (10 mL). The stock solution of atorvastatin free acid was added to the counterion solution with stirring. Over time, an additional 40 mL of acetonitrile was added to prevent the formation of a gel. After 5 days of stirring at ambient temperature, the solids were isolated by vacuum filtration using a Buchner funnel fitted with a paper filter (#2 Whatman). The solids were rinsed with acetonitrile (75 mL), and placed in a 25° C. oven under nitrogen to dry overnight to afford atorvastatin benethamine Form A.

reactant | atorvastatin | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | C33H35FN2O5
solvent | acetonitrile | 40 mL, 1 g | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | N-benzyl-2-phenylethylamine | C(C1=CC=CC=C1)NCCC1=CC=CC=C1 | C15H17N
